US08426411B2
To a solution of N-(diphenylmethylene)-1-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)methanamine (0.722 g, 1.55 mmol) in THF (3 mL) at about −78° C. was added NaHMDS (0.5 M in THF, 1.55 mL, 1.55 mmol). After about 30 min, 1,1,1-trifluoro-2-iodoethane (1.51 mL, 15.5 mmol) was added to the reaction mixture. After about 4 h, the reaction mixture was allowed to warm to rt slowly over night. After about 15 h, EtOAc (30 mL) and saturated aqueous NaHCO3 (30 mL) were added. The organic layer was separated, concd in vacuo and purified by chromatography on silica gel eluting with EtOAc/heptane (20-50%) to provide the crude alkylated imine. The imine was dissolved in isopropyl acetate (30 mL) and concd HCl (0.50 mL) was added. The reaction mixture was spun on a rotory evaporator for 1 h prior to partial concentration to approx 10 mL. Additional isopropyl acetate (30 mL) was added and the solvent was partially removed in vacuo until approx. 10 mL remained. Et2O (30 mL) was added and the solution was allowed to age for about 30 min. The resulting solids were collected by filtration and dried in vacuo to provide 3,3,3-trifluoro-1-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)propan-1-amine hydrochloride (0.150 g, 23%) as a colorless solid. LC/MS (Table 1, Method a) Rt=1.88 min; MS m/z 385 (M+H)+.

reactant | N-(diphenylmethylene)-1-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)methanamine | 1.55 mmol, 0.722 g | C1(=CC=CC=C1)C(=NCC=1N=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)C2=CC=CC=C2 | C27H22N4O2S
reactant | NaHMDS | 1.55 mmol, 0.5 M, 1.55 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 1,1,1-trifluoro-2-iodoethane | 15.5 mmol, 1.51 mL | FC(CI)(F)F | C2H2F3I
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
reactant | HCl | 0.50 mL | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | isopropyl acetate | 30 mL | C(C)(=O)OC(C)C | C5H10O2
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 3,3,3-trifluoro-1-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)propan-1-amine hydrochloride | 0.150 g, 23% | Cl.FC(CC(N)C=1N=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)(F)F | InChI=1S/C16H15F3N4O2S.ClH/c1-10-2-4-11(5-3-10)26(24,25)23-7-6-13-15(23)21-9-14(22-13)12(20)8-16(17,18)19;/h2-7,9,12H,8,20H2,1H3;1H
